US07507734B2
4 mg acetyl chloride are added at 0° C. to a suspension of 80 mg aluminum chloride 1,2-Dichloroethane, followed by 208 mg 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole Trifluoroacetate. The reaction mixture is stirred for 4 h at room temperature and for 3h at 50° C. It is worked up pouring into an ice/water mixture and filtration. The layers are separated, the organic is layer washed with water, dried over MgSO4 and the solvent removed. Reverse phase HPLC chromatography yielded 8.1 mg 4-(3-Acetyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one

reactant | acetyl chloride | 4 mg | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride 1,2-Dichloroethane | 80 mg | ClCCCl.[Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole Trifluoroacetate | 208 mg | FC(C(=O)O)(F)F.COC=1N=NC(=CC1C=1NC2=CC=CC=C2C1)C1=CC=NC=C1
product | 4-(3-Acetyl-1H-indol-2-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | 8.1 mg | C(C)(=O)C1=C(NC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C19H14N4O2
